*RPLY_BIAS_SKY130A/RPLYBS_OTA
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/RPLYBS_OTA_lpe.spi
#else
.include ../../../work/xsch/RPLYBS_OTA.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-18
+ gminsteps=20
+ rshunt=1e12

*-----------------------------------------------------------------
* PARAMETERS
*-----------------------------------------------------------------

*-----------------------------------------------------------------
* FORCE
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD_1V8  0  dc {vdda}
VPWR PWRUP_1V8 0 dc {vdda}

VI VIP 0 dc {vcm} ac 1
VIN VIN1 0 dc {vcm}
*.ic v(VIN)={vcm}

* AC feedback
*L1 VO VIN 1
R1 VO VIN 1G
R2 VIN VIN1 1G
C1 VIN 0 1 ic={vcm}

C2 VO 0 200f

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
IB 0 IBP_2U dc 2u
XDUT VDD_1V8 VO VSS PWRUP_1V8 VIN VIP IBP_2U RPLYBS_OTA

*----------------------------------------------------------------
* MEASURES
*----------------------------------------------------------------


*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------

#ifdef Debug
.save all
#else
.save op v(vip) v(xdut.vs)
+ v(xdut.vbp) v(xdut.vbn1) v(xdut.vbn2) v(xdut.vbpb) v(ibp_2u)
.probe v(VDD_1V8) v(VO) v(VSS) v(PWRUP_1V8) v(VIN) v(VIP)
+ v(xdut.vip_ls) v(xdut.vin_ls)
#endif

*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black

unset askquit

op
print allv

tran 1n 10n
write

quit

.endc

.end
